US09376418B2
Pd/C (10.0 mg, 9.40 mol) was added to a solution of ethyl-3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]prop-2-enoate (96.0 mg, 0.224 mmol) in MeOH (2.00 mL) and THF (1.00 mL). One drop of TFA was added to the reaction mixture and was purged and flushed with argon (3×). The reaction mixture was stirred for 4 hours at room temperature under an atmosphere of hydrogen. The mixture was filtered through CELITE and concentrated under reduced pressure. The residue was purified by silica gel chromatography (3:7 ethyl acetate in hexanes) to afford ethyl 3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]propanoate. C22H22F3N4O2 [M+H]431. found 431.

reactant | ethyl-3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]prop-2-enoate | 0.224 mmol, 96.0 mg | C(C)OC(C=CC1=NC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)=O | C22H19F3N4O2
solvent | MeOH | 2.00 mL | CO | CH4O
solvent | THF | 1.00 mL | C1CCOC1 | C4H8O
catalyst | TFA | One drop | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Pd/C | 9.40 mol, 10.0 mg | [Pd] | Pd
product | ethyl 3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]propanoate | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)CCC(=O)OCC | C22H21F3N4O2
